US08703784B2
To a pressure flask were charged compound tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxylate (13.66 g, 16.86 mmol), tributyl(1-ethoxyvinyl)tin (11.4 mL, 33.74 mmols) and dioxane (150 ml). The flask was degassed with Ar briefly, capped and heated at 100° C. with stirring overnight. After cooling, the reaction mixture was concentrated. The residue was taken into ether (200 ml), washed with 0.5 M KF (50 ml), brine and dried (MgSO4). After solvent was removed under reduced pressure, the residue was purified on silica. Elution with DOM in hexanes (0-30%) gave compound tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxylate (11.55 g, 85%).

reactant | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxylate | 16.86 mmol, 13.66 g | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C)Br)COCC[Si](C)(C)C)(C)C | C39H57BrN6O4Si2
reactant | tributyl(1-ethoxyvinyl)tin | 33.74 mmols, 11.4 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxylate | 11.55 g, 85% | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C43H64N6O5Si2
